US07956216B2
Using preparation method 2, 3-bromobenzenesulfonamide (236 mg, 1 mmol) was reacted with phenylboronic acid (134 mg, 1.1 mmol). Purification by flash chromatography on SiO2 with CH2Cl2 gave 3-phenylbenzenesulfonamide as an off-white crystalline solid (155 mg, 66%). NMR 1H (ppm, d6-DMSO): 8.11 (s, 1H), 7.84 (d, J3=7.8 Hz, 1H), 7.70 (d, J3=7.8 Hz, 1H), 7.56-7.53 (m, 2H), 7.48 (t, J3=7.8 Hz, 1H), 7.43-7.34 (m, 3H), 5.10 (br. s, 2H).

reactant | 3-bromobenzenesulfonamide | 1 mmol, 236 mg | BrC=1C=C(C=CC1)S(=O)(=O)N | C6H6BrNO2S
reactant | phenylboronic acid | 1.1 mmol, 134 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 3-phenylbenzenesulfonamide | 155 mg, 66% | C1(=CC=CC=C1)C=1C=C(C=CC1)S(=O)(=O)N | C12H11NO2S
